US04010177
A solution of 1.01 g. (3.00 mmole) of 5-chloro-2-[3-(hydroxymethyl)-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone in 15 ml. of methylene chloride and cooled to 0° C. is treated dropwise with 0.378 g. (3.30 mmole) of methane sulfonylchloride. The mixture is stirred for 1/2 hour, poured onto ice, and extracted with a saturated aqueous sodium bicarbonate solution. The organic layer is removed, dried with anhydrous sodium sulfate and concentrated in vacuo to an oil. This resulting oil, dissolved in 20 ml. of tetrahydrofuran, is treated with 0.56 g. (10 mmole) of allylamine and 0.996 g. (6.0 mmole) of potassium iodide and heated to reflux for 24 hours. The reaction mixture is poured onto a cold (0°-5° C.) 10% aqueous sodium hydroxide solution and extracted with chloroform. The chloroform extract is dried with anhydrous sodium sulfate and concentrated in vacuo to give 5-chloro-2-[3-[(allylamino)methyl]-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 5-chloro-2-[3-(hydroxymethyl)-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone | 3.00 mmole | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN(C)C)CO | C19H19ClN4O2
reactant | methane sulfonylchloride | 3.30 mmole | CS(=O)(=O)Cl | CH3ClO2S
reactant | allylamine | 10 mmole | C(C=C)N | C3H7N
reactant | potassium iodide | 6.0 mmole | [I-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-[3-[(allylamino)methyl]-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN(C)C)CNCC=C | C22H24ClN5O
